Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:10][O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.3598517366400005
[H:1][C:2]([H:3])=[C:4][H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.376447536
[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2]#[C:4][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:6]([H:3])=[C:5],5.84310869235
[H:1][C:2][C:5]([O:4][O:3])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]1[O:3][O:4]/[C:5]1=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11],-2.7633201169
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],3.21216368306
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[O:9]=[C:10][H:11]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11],-1.2055462683
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2],8.229677263060001
[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:6].[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[H:11],1.84073804397
[C:1][C:2]#[C:3][C:6]([H:7])([H:8])[H:9].[C:4]=[O:5]>>[C:1]#[C:2][C:3](=[C:4]=[O:5])[C:6]([H:7])([H:8])[H:9],-1.41023235486
[O:1][O:2][C:3][C:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11]>>[O:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1([H:10])[H:11],-4.11766002565
[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.30174948891
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10],-2.24038926053
[O:10][H:11].[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11],-2.55495210285
[C:1]#[C:2][C:3]([H:4])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-1.7667388752900002
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-3.0252542999000003
[H:1][C:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])([H:8])[H:9])[O:10][C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1[H:12],-1.7831691795900002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14]>>[C:9]([H:10])#[C:11][C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],3.64360996652
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],1.60290770654
[C:4]([H:5])([H:6])([C:7])[H:11].[H:1][C:2](=[C:3]=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.92104016386
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.52140371871
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.4652907845700005
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2][H:3],5.06982145925
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.040125462280001
[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.04886787988
[C:3](#[C:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.02528435348
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[H:5].[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],3.74870236442
[H:7].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-4.89785954962
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[O:4],2.22667447716
[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-7.590220519730001
